US06600063B1
Preparation of 2-Acetoxy-4-acetamidobenzoic Acid Phenyl Ester.
This compound was prepared using the General Structural Outline for Synthesis of para-Aminosalicylic Acid Phenyl Ester Diacyl Derivatives. In a 50 mL pear shaped flask fitted for reflux were mixed para-aminosalicylic acid phenyl ester (1.45 g) and acetic anhydride (10 mL). Over 10 minutes, the mixture was brought to the boil, and refluxing was continued for 20 minutes. The mixture was allowed to cool to room temperature and stand for two hours, then poured out into a watchglass and allowed to dry. The resulting residue was ground with ether (10 mL) and the process repeated. The resulting white crystalline solid was the title compound (0.75 g, 38%), mp 142-143° C. (uncorr); IR v 3323, 1767, 1734, 1673, 1613, 1590, 1506, 1268, 1207, 1185, 1163, 1134, 1056, 1014, 1002, 944, 895, 862, 844, 748, 691 cm−1; NMR δ 10.5 (1H, br s), 8.2-7.1 (m, 8H), 2.2 (3H, s), 2.1 (3H, s).

reactant | para-aminosalicylic acid phenyl ester | 1.45 g | C1(=CC=CC=C1)OC(C=1C(O)=CC(=CC1)N)=O | C13H11NO3
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetoxy-4-acetamidobenzoic Acid Phenyl Ester | C1(=CC=CC=C1)OC(C1=C(C=C(C=C1)NC(C)=O)OC(C)=O)=O | C17H15NO5
